US05684020
1-[(Acenaphthen-1-yl)methyl]-4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine
Prepared as described in Example 9, starting from acenaphthen-1-ylcarboxylic acid and 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine. The fumarate of the title compound melts at 226°-228° C. (ethanol).

reactant | acenaphthen-1-ylcarboxylic acid | C1(CC2=CC=CC3=CC=CC1=C23)C(=O)O | C13H10O2
reactant | 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine | COC=1C(=CC2=C(CCO2)C1)N1CCNCC1 | C13H18N2O2
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 1-[(Acenaphthen-1-yl)methyl]-4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine | C1(CC2=CC=CC3=CC=CC1=C23)CN2CCN(CC2)C2=CC3=C(CCO3)C=C2OC | C26H28N2O2
